US07906546B2
(RS,SR)-3-[({5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-amino)-methyl]-benzoic acid methyl ester
In analogy to example 129.3, from (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine and methyl-3-formylbenzoate was prepared (RS,SR)-3-[{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-amino)-methyl]-benzoic acid methyl ester as a light yellow powder, MS: 609 (MH+).

reactant | (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)CN)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C21H18ClFN4O3S
reactant | methyl-3-formylbenzoate | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
product | (RS,SR)-3-[({5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-amino)-methyl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CNCC1=NOC(=N1)C(F)(C1CC2=C(NC=3C=CC(=CC23)Cl)C1)S(=O)(=O)C1=CC=CC=C1)=O | C30H26ClFN4O5S
